US07648985B2
(i) (3-Bromo-propyl)-carbamic acid tert-butyl ester
(Boc)2O (13.5 g, 0.062 mol) was added drop by drop at 0° C. to a solution of 3-bromo propyl amine hydrobromide (15 g, 0.0688 mol) and triethyl amine (13.89 g, 0.1376 mol) in dry dichloromethane (125 ml) under nitrogen atmosphere. The reaction mixture was stirred at RT for 1 h and quenched with water. Organic layer was washed with water and brine and dried over sodium sulfate. Solvent evaporation under reduced pressure followed by purification over silica gel using 5% ethyl acetate in pet ether as eluent afforded the sub-title compound (11.6 g) as yellow oil.

reactant | (Boc)2O | 0.062 mol, 13.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-bromo propyl amine hydrobromide | 0.0688 mol, 15 g | Br.BrCCCN
reactant | triethyl amine | 0.1376 mol, 13.89 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | (3-Bromo-propyl)-carbamic acid tert-butyl ester | 11.6 g | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
